US03933799
11β-Chloro-21-hydroxy-17-isobutyryloxy-16β-methylpregna-1,4-diene3,20-dione
A solution of 11β-chloro-17,21-dihydroxy-16β-methylpregna-1,4-diene-3,20-dione (214 mg.) in dioxan (7 ml.) was treated with trimethyl orthoisobutyrate (0.22 ml.) and toluene p-sulphonic acid (23 mg.) at room temperature. After 45 minutes a little sodium bicarbonate was added and the mixture was then poured into a dilute solution of sodium bicarbonate. The oily product was extracted into ethyl acetate and washed with water. Evaporation of the organic solent gave an oil which was dissolved in acetone (10 ml.) and treated with 0.08 N-sulphuric acid (2.4 ml.). After keeping at room temperature for 30 minutes, the solution was diluted with water and the precipitated oil was extracted with ethyl acetate and washed with water. Evaporation of the organic solvent afforded the crude product which, on crystallization from ether-petroleum ether, gave the title compound, m.p. 163°-164° (K), [α]D + 108.5 (c 0.6 chloroform) λmax 240 nm (ε 15,460) (Found: C, 67.7; H, 7.7; Cl, 7.4. C26H35Cl O5 requires C, 67.45; H, 7.6; Cl, 7.65%).

reactant | 11β-chloro-17,21-dihydroxy-16β-methylpregna-1,4-diene-3,20-dione | 214 mg | Cl[C@@H]1[C@@H]2[C@]3(C=CC(C=C3CC[C@H]2[C@@H]2C[C@@H]([C@](C(CO)=O)([C@]2(C1)C)O)C)=O)C | C22H29ClO4
reactant | trimethyl orthoisobutyrate | 0.22 ml | C(C(C)C)(OC)(OC)OC | C7H16O3
reactant | toluene p-sulphonic acid | 23 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dioxan | 7 ml | O1CCOCC1 | C4H8O2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 11β-Chloro-21-hydroxy-17-isobutyryloxy-16β-methylpregna-1,4-diene3,20-dione | Cl[C@@H]1[C@@H]2[C@]3(C=CC(C=C3CC[C@H]2[C@@H]2C[C@@H]([C@](C(CO)=O)([C@]2(C1)C)OC(C(C)C)=O)C)=O)C | C26H35ClO5
